US04585768
8.04 g of (±)-threo-3-(5-chloro-2-nitrophenylthio-2-hydroxy-3-(4-methoxyphenyl)propionic acid are dissolved in 110 ml of methanol, and 3.85 g of L-lysine.hydrochloride are added thereto. 21 ml of a solution of 1N potassium hydroxidemethanol are added to the mixture under ice-cooling, and the mixture is allowed to stand at room temperature. Crystalline precipitates are collected by filtration (the mother liquor is hereinafter referred to as "mother liquor (I)"). The crystals (10.56 g) are recrystallized three times repeatedly from a mixture of dimethylformamide and water (1:1) (the mother liquors are hereinafter referred to as "mother liquor (II)"). 4.29 g of (+)-threo-3-(5-chloro-2-nitrophenylthio)-2-hydroxy-3-(4-methoxyphenyl)propionic acid.L-lysine salt are obtained.

reactant | 5-chloro-2-nitrophenylthio-2-hydroxy-3-(4-methoxyphenyl)propionic acid | ClC=1C=CC=C(C1)SC(C(C(=O)O)(O)[N+](=O)[O-])C1=CC=C(C=C1)OC | C16H14ClNO6S
reactant | L-lysine.hydrochloride | 3.85 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | potassium | 1N | [K] | K
solvent | methanol | 110 ml | CO | CH4O
product | L-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
